US05021481
4-Benzoyloxy-1-ethoxy-2,2,6,6-tetramethylpiperidine
A mixture of 28.3 grams (102 mmol) of 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine, 5.0 grams of magnesium sulfate, 1.0 gram of 5% palladium on carbon, and 100 ml of anhydrous tetrahydrofuran is hydrogenated (50 psi, room temperature) in a Parr apparatus. Solids are removed by filtration, and ethyl iodide (32.1 grams, 206 mmol) is added to the crude hydroxylamine solution. A solution obtained by refluxing a suspension of 3.7 grams (154 mmol) of sodium hydride in 50 ml of dimethyl sulfoxide and 50 ml of tetrahydrofuran is then added over 30 minutes to the hydroxylamine solution. The reaction mixture is diluted with water (1000 ml) and extracted with ether (2×150 ml). The combined organic layers are washed with water (2×1000 ml), washed with saturated sodium chloride solution (500 ml), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The crude product is purified by flash chromatography (silica gel; 9:1 hexane:ethyl acetate) and crystallized from methanol to afford 15.1 grams (48% yield) of the title compound as a white solid melting at 76-78° C.

reactant | 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine | 102 mmol, 28.3 grams | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C16H23NO3
reactant | magnesium sulfate | 5.0 grams | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | ethyl iodide | 206 mmol, 32.1 grams | C(C)I | C2H5I
reactant | hydroxylamine | NO | H3NO
reactant | sodium hydride | 154 mmol, 3.7 grams | [H-].[Na+]
catalyst | palladium on carbon | 1.0 gram | [Pd] | Pd
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 1000 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-Benzoyloxy-1-ethoxy-2,2,6,6-tetramethylpiperidine | 15.1 grams, 48% yield | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OCC)(C)C | C18H27NO3
